US05856529
Step 1: Methyl 2,3-dihydro-benzofuran-7-carboxylate
Methyl benzofuran-7-carboxylate (12 g, 68 mmol) was hydrogenated at 60 psi over 10% Pd/C (2 g) in acetic acid (60 ml) for 18 hr. The mixture was filtered, and the filtrate was concentrated in vacuo to give a pale green oil (12 g, 100%),

reactant | Methyl benzofuran-7-carboxylate | 68 mmol, 12 g | O1C=CC2=C1C(=CC=C2)C(=O)OC | C10H8O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 2 g | [Pd] | Pd
product | Methyl 2,3-dihydro-benzofuran-7-carboxylate | 12 g, 100% | O1CCC2=C1C(=CC=C2)C(=O)OC | C10H10O3
